US04994485
To a suspension of 7.20 g of 2-methylthio-3,5-dicyanothiophene, obtained according to Example IV (a), in 120 ml of dry toluene is added, while stirring and under a nitrogen blanket, 75 ml of a 20% solution of diisobutyl aluminumhydride in toluene. The reaction mixture is stirred for two hours, after which 12 ml of methanol is added under cooling in ice. The reaction mixture is stirred in ice plus conc. sulphuric acid till a clear solution. The toluene phase is separated and the water phase washed twice with toluene. The combined organic phase is washed with water, dried, filtered and evaporated. The residue is recrystallized from ethanol yielding 2-methylthio-3,5-diformylthiophene in a quantity of 3.0 g; melting point 135°-137° C.

reactant | 2-methylthio-3,5-dicyanothiophene | 7.20 g | CSC=1SC(=CC1C#N)C#N | C7H4N2S2
reactant | diisobutyl aluminumhydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 12 ml | CO | CH4O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methylthio-3,5-diformylthiophene | CSC=1SC(=CC1C=O)C=O | C7H6O2S2
